US07759349B2
Preparation of 2-[4-(2-Methoxyethoxy)phenyl]-3-phenyl-6-propoxyimidazo[1,2-b]pyridazine (Compound 97)
2-[4-(2-Methoxyethoxy)phenyl]-3-iodo-6-propoxyimidazo[1,2-b]pyridazine (100 mg, 0.22 mmol) was dissolved with stirring in 1,2-dimethoxyethane (2.5 mL) under an atmosphere of nitrogen. Phenylboronic acid (30 mg, 0.24 mmol) was added followed by tetrakis(triphenylphosphine)-palladium(0) (20 mg). A solution of sodium hydroxide (18 mg, 0.44 mmol) in water (1 mL) was added. The resulting mixture was heated at 70° for 1 hour then cooled and partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane and the combined organics dried and evaporated. The cream coloured solid residue was radially chromatographed on silica gel. Elution with 0-3% methanol in dichloromethane provided Compound 97 (74 mg) as a white solid. 1H n.m.r. (CDCl3) δ 1.00, t, J=7.3 Hz, 3H; 1.74-1.86, m, 2H; 3.45, s, 3H; 3.75, t, J=4.3 Hz, 2H; 4.13, t, J=4.3 Hz, 2H; 4.18, t, J=6.3 Hz, 2H; 6.70, d, J=9.5 Hz, 1H; 6.88, d, J=8.4 Hz, 2H; 7.35-7.47, m, 3H; 7.57, d, J=8.3 Hz 2H; 7.62, d, J=6.8 Hz, 2H; 7.82, d, J=9.3 Hz, 1H. Mass spectrum (APCI+) m/z 404 (M+H, 100%).

reactant | 2-[4-(2-Methoxyethoxy)phenyl]-3-iodo-6-propoxyimidazo[1,2-b]pyridazine | 0.22 mmol, 100 mg | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)OCCC)C1I | C18H20IN3O3
reactant | Phenylboronic acid | 0.24 mmol, 30 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium hydroxide | 0.44 mmol, 18 mg | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-[4-(2-Methoxyethoxy)phenyl]-3-phenyl-6-propoxyimidazo[1,2-b]pyridazine | COCCOC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)OCCC)C1C1=CC=CC=C1 | C24H25N3O3
